US07288547B2
Production of 5-(5-Bromo-4-hydroxy-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide
2.0 g (9.62 mmol) of 5-bromo-2-chloro-4-hydroxypyrimidine and 1.686 g (9.62 mmol) of 5-amino-pyridine-2-sulfonic acid amide are mixed in 50 ml of DMF (p.a.) with 2.88 ml of hydrochloric acid (4 molar in dioxane). It is stirred for 30 hours at 100° C., cooled and concentrated by evaporation. After being taken up in methanol, 1.505 g (45% of theory) of 5-(5-bromo-4-hydroxy-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide is crystallized out, which is dried at 50° C. in a vacuum.

reactant | 5-bromo-2-chloro-4-hydroxypyrimidine | 9.62 mmol, 2.0 g | BrC=1C(=NC(=NC1)Cl)O | C4H2BrClN2O
reactant | 5-amino-pyridine-2-sulfonic acid amide | 9.62 mmol, 1.686 g | NC=1C=CC(=NC1)S(=O)(=O)N | C5H7N3O2S
reactant | hydrochloric acid | 4 molar, 2.88 ml | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(5-Bromo-4-hydroxy-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)O | C9H8BrN5O3S
